US09108921B2
Step A: 1-fluoro-3-nitro-2-thiocyanatobenzene (25B)
A solution of 2-fluoro-6-nitroaniline (3 g, 0.02 mol) in conc. sulphuric acid (30 mL) and water (30 mL) was diazotized at 0-3° C. for 90 min with aqueous sodium nitrite (1.45 g, 0.021 mol). After addition of potassium thiocyanate (2.522 g, 0.026 mol) in water (10 mL), the diazo-liquor was stirred vigorously into a suspension of cuprous thiocyanate (6.05 g, 0.05 mol) in water (20 mL) at 5° C. After stirring at 5° C. for 2 hr, the mixture was then heated at 70° C. for 20 min, then was cooled overnight, filtered, and the cake extracted with EtOAc to get the crude product (3.96 g) which was used in the next step without further purification. LC-MS: m/z 199.2 (M+H)+

reactant | 2-fluoro-6-nitroaniline | 0.02 mol, 3 g | FC1=C(N)C(=CC=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium nitrite | 0.021 mol, 1.45 g | N(=O)[O-].[Na+]
reactant | potassium thiocyanate | 0.026 mol, 2.522 g | [S-]C#N.[K+]
solvent | sulphuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1-fluoro-3-nitro-2-thiocyanatobenzene | 3.96 g | FC1=C(C(=CC=C1)[N+](=O)[O-])SC#N | C7H3FN2O2S
